US06462032B1
5-Bromo-3-ethyloxindole
A solution of 3-ethyloxindole (6.0 g, 40 mmol) and sodium acetate (4 g, 48 mmol) in acetic acid (100 ml) was treated with bromine (6.4 g, 40 mmol). After 30 min. the mixture was diluted with water and extracted with EtOAc (2×); the combined organic layers were washed with water, sat. sodium hydrogen carbonate solution, and brine, dried (MgSO4) and evaporated to afford the crude product (9.2 g, 96%). A sample was recrystallized from EtOAc/hexane to obtain the title compound, m.p. 130-132° C.; 1H-NMR (DMSO-d6) δ 0.74 (t, 3H, J=7.5 Hz), 1.8-2.0 (m, 2H), 3.45 (t, 1H, J=5.5 Hz,), 6.76 (d, 1H, J=8.35 Hz), 7.42 (m, 1H), 10.43 (s, 1H); MS (−ESI) m/z 238/240 (M−H).

reactant | 3-ethyloxindole | 40 mmol, 6.0 g | C(C)C1C(NC2=CC=CC=C12)=O | C10H11NO
reactant | sodium acetate | 48 mmol, 4 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 40 mmol, 6.4 g | BrBr | Br2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-Bromo-3-ethyloxindole | BrC=1C=C2C(C(NC2=CC1)=O)CC | C10H10BrNO
